US04558043
40.7 g (0.44 mole) of chloroacetone are added dropwise at room temperature, with stirring, over a period of 30 minutes to a suspension of 61.25 g (0.4 mole) of 4-methyl-3-nitrophenol, 60.8 g (0.44 mole) of ground potassium carbonate, 39.9 g (0.267 mole) of sodium iodide and 900 ml of dimethylformamide. After a further 3 hours at room temperature, the whole is filtered with suction and the residue is washed with dimethylformamide. The organic solution is concentrated by evaporation in vacuo and the resulting crude product is partitioned between methylene chloride and water. The residue remaining after drying and removal of the methylene chloride is chromatographed over silica gel with petroleum ether/methylene chloride. Subsequent recrystalliation from methylene chloride/petroleum ether yields 1-(4-methyl-3-nitrophenoxy)-2-propanone having a melting point of 84°-86°.

reactant | chloroacetone | 0.44 mole, 40.7 g | ClCC(C)=O | C3H5ClO
reactant | 4-methyl-3-nitrophenol | 0.4 mole, 61.25 g | CC1=C(C=C(C=C1)O)[N+](=O)[O-] | C7H7NO3
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 0.267 mole, 39.9 g | [I-].[Na+]
solvent | dimethylformamide | 900 ml | CN(C=O)C | C3H7NO
product | 1-(4-methyl-3-nitrophenoxy)-2-propanone | CC1=C(C=C(OCC(C)=O)C=C1)[N+](=O)[O-] | C10H11NO4
